### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2025-03-25

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Category/Ring/Adjunctions.lean [hunk 1]
```diff
@@ -91,6 +91,9 @@ instance : HasForget₂ CommRingCat CommMonCat where
   forget₂ := { obj M := .of M, map f := CommMonCat.ofHom f.hom }
   forget_comp := rfl
 
+#adaptation_note
+/-- `simp` is taking longer after nightly-2025-03-25. -/
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Adjunctions.lean:95]:
```suggestion
#adaptation_note /-- nightly-2025-03-25
`simp` is taking longer after nightly-2025-03-25. -/
```
This way it will be somewhat easier to track/classify adaptation notes using `grep`.

File: Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean [hunk 2]
```diff
@@ -262,6 +262,9 @@ private lemma induction_structure (n : ℕ)
         Ideal.Quotient.mk_singleton_self, ne_eq, not_true_eq_false, false_or] at h_eq
       exact hi h_eq
 
+#adaptation_note
+/-- Requires more heartbeats after nightly-2025-03-25. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/ChevalleyComplexity.lean:266]:
```suggestion
#adaptation_note /-- nightly-2025-03-25
Requires more heartbeats after nightly-2025-03-25. -/
```

File: Mathlib/GroupTheory/Coxeter/Matrix.lean [hunk 3]
```diff
@@ -108,6 +108,9 @@ def Aₙ : CoxeterMatrix (Fin n) where
   diagonal := by simp
   off_diagonal := by aesop
 
+#adaptation_note
+/-- Requires more heartbeats after nightly-2025-03-25. -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coxeter/Matrix.lean:112]:
```suggestion
#adaptation_note /-- nightly-2025-03-25
Requires more heartbeats after nightly-2025-03-25. -/
```

**Review by jcommelin — COMMENTED** [review]
bors r+
